US07067517B2
4-(3,4-Dichlorophenyl)piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)phenyl ester
The hydrochloride of the title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and 1-(3,4-dichlorophenyl)piperazine. The crude product was partitioned between dichlorormethane and 2 M aqueous sodium carbonate. The organic layer was washed with water, dried and evaporated. The residue was triturated with ethyl acetate-heptane (1:4) and the precipitate was collected by filtration and dried to give the title compound as white crystals. Yield 28%; m.p. 115–116° C.; 1H NMR (DMSO-d6): δ 8.61–8.55 (br, 1H), 8.30–8.20 (dd-like, 1H), 7.48–7.40 (d-like,1H), 7.31–7.16 (m, 6H), 7.04–6.94 (dd-like, 1H), 3.83–3.47 (br m, 4H), 3.36–3.24 (br s, 4H+water); HPLC-MS: m/z=512 (M+H); IR (KBr): ν 1724, 1706 cm−1.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | 1-(3,4-dichlorophenyl)piperazine | ClC=1C=C(C=CC1Cl)N1CCNCC1 | C10H12Cl2N2
product | 4-(3,4-Dichlorophenyl)piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)Cl)(F)F | C23H18Cl2F3N3O3
